US04113871
By the reaction of ethyl α,α-dimethyl-β-[4-(2-aminoethyl)-phenyl]-propionate hydrochloride with 5-chloro-2-methoxybenzoyl chloride, there is obtained α,α-dimethyl-β-{4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-propionic acid; m.p. 138°-141° C., after recrystallization from ethyl acetate.

reactant | ethyl α,α-dimethyl-β-[4-(2-aminoethyl)-phenyl]-propionate hydrochloride | Cl.CC(C(=O)OCC)(CC1=CC=C(C=C1)CCN)C
reactant | 5-chloro-2-methoxybenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
product | α,α-dimethyl-β-{4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)CCNC(C1=C(C=CC(=C1)Cl)OC)=O)C | C21H24ClNO4
